US07148229B2
N-{4-[3-Butyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-1-naphthalenesulfonamide
Prepared from 8-(4-amino-benzyl)-3-butyl-1-(2-fluoro-benzyl)-3,7-dihydro-purine-2,6-dione and naphthalene-1-sulfonyl chloride. Purity (ELSD, based on MW=611.7)=81%.

reactant | 8-(4-amino-benzyl)-3-butyl-1-(2-fluoro-benzyl)-3,7-dihydro-purine-2,6-dione | NC1=CC=C(CC2=NC=3N(C(N(C(C3N2)=O)CC2=C(C=CC=C2)F)=O)CCCC)C=C1 | C23H24FN5O2
reactant | naphthalene-1-sulfonyl chloride | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | N-{4-[3-Butyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-1-naphthalenesulfonamide | C(CCC)N1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NS(=O)(=O)C1=CC=CC2=CC=CC=C12)=O)CC1=C(C=CC=C1)F)=O | C33H30FN5O4S
